US04172095
B. 3-Amino-2-methylbenzotrifluoride
Dissolve 2 g. of 3-amino-4-chloro-2-methylthiomethylbenzotrifluoride in 50 ml. of 90% ethanol which is 1N in potassium hydroxide. Add 2 teaspoonsful of Raney nickel (W-2). Stir at 70° C. for 3 hours, cool and filter. Add 50 ml. of water and extract three times with hexane. Dry the combined organic extracts and evaporate to yield the title compound.

reactant | 3-amino-4-chloro-2-methylthiomethylbenzotrifluoride | NC=1C(=C(C=CC1Cl)C(F)(F)F)CSC | C9H9ClF3NS
reactant | ethanol | C(C)O | C2H6O
solvent | potassium hydroxide | [OH-].[K+]
catalyst | Raney nickel | [Ni] | Ni
product | 3-Amino-2-methylbenzotrifluoride | NC=1C(=C(C=CC1)C(F)(F)F)C | C8H8F3N
